US09334271B2
(a) 1-Chloro-3-fluoro-5-nitro-benzene
Sodium perborate tetrahydrate (7.69 g, 50.0 mmol) was suspended in 30 mL of acetic acid, and this suspension was warmed to 55° C. 3-Chloro-5-fluoroaniline (1.46 g, 10 mmol) was dissolved in 20 mL of acetic acid and added within one hour. The reaction was stirred for 1 hour at 55° C. and then cooled to room temperature. 300 mL of TBME was added, and the reaction mixture was filtered. The organic layer was washed with brine, followed by 20 mL of aqueous Na2S2O3, followed by brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to give a residue, which was purified by column chromatography (40 g SiO2; cyclohexane) to yield the title compound as a solid (320 mg, 18%). 1H-NMR (400 MHz; DMSO-d6): 8.20 (s, 1H), 8.18 (d, 1H), 8.07 (d, 1H).

reactant | Sodium perborate tetrahydrate | 50.0 mmol, 7.69 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | 3-Chloro-5-fluoroaniline | 10 mmol, 1.46 g | ClC=1C=C(N)C=C(C1)F | C6H5ClFN
reactant | TBME | 300 mL | CC(C)(C)OC | C5H12O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1-Chloro-3-fluoro-5-nitro-benzene | 320 mg, 18% | ClC1=CC(=CC(=C1)[N+](=O)[O-])F | C6H3ClFNO2
